US05677309
A mixture of 2,4-dichloro-5,6,7,8-tetrahydroquinazoline [prepared according to the procedure described by M. Botta et al., 40, Tetrahedron, (1984), 3313] (500 mg, 2.4 mmol), phenylhydrazine (270 mg, 2.5 mmol) and N,N-diisopropylethylamine (1 ml, 5.7 mmol) in THF (50 ml) was heated at reflux temperature overnight. The reaction was cooled to room temperature and phosgene (200 ml, 20% in toluene) was added slowly and stirred for an additional 10 min. The mixture was poured into water and extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with brine, dried over Na2SO4 and evaporated under reduced pressure. The residue was triturated with ethanol and filtered to afford 5-chloro-2-phenyl-7,8,9,10-tetrahydro-1,2,4-triazolo[4,3-c]quinazolin-3-one, m.p. 205°-207° C.

reactant | 2,4-dichloro-5,6,7,8-tetrahydroquinazoline | ClC1=NC=2CCCCC2C(=N1)Cl | C8H8Cl2N2
reactant | phenylhydrazine | 2.5 mmol, 270 mg | C1(=CC=CC=C1)NN | C6H8N2
reactant | N,N-diisopropylethylamine | 5.7 mmol, 1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phosgene | 200 ml | C(=O)(Cl)Cl | CCl2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 5-chloro-2-phenyl-7,8,9,10-tetrahydro-1,2,4-triazolo[4,3-c]quinazolin-3-one | ClC1=NC=2CCCCC2C=2N1C(N(N2)C2=CC=CC=C2)=O | C15H13ClN4O
